US08012981B2
1,1-Dimethylethyl (2R)-2-methyl-4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate (D24)
The title compound was prepared from 4-nitrobenzaldehyde and 1,1-dimethylethyl (2R)-2-methyl-1-piperazinecarboxylate using a method similar to that described for D21 in Description 21. MS (ES): [M-(CH2═CMe2)]H+ 280.2, [M—(CH2═CMe2)—CO2]H+ 236.3, no molecular ion.

reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 1,1-dimethylethyl (2R)-2-methyl-1-piperazinecarboxylate | C[C@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
product | 1,1-Dimethylethyl (2R)-2-methyl-4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate | C[C@H]1N(CCN(C1)CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C17H25N3O4
